US04719248
To a cooled (0°-5° C.), well stirred suspension of 4-chloro-2-nitroaniline, 34.4 g. (0.2 mole) in 80 ml. of concentrated hydrochloric acid was added, dropwise, 18.0 g. (0.26 mole) of sodium nitrite in 10 ml. of water. The addition required approximately 30 minutes. After the addition was complete, the reaction mixture was filtered and the filtrate placed in an addition funnel containing approximately 100 g. of crushed ice. This solution was used immediately in the next step. The solution was added, dropwise, over 30 minutes to a well stirred suspension of 30.2 g. (0.2 mole) of p-acetamidophenol in 600 ml. of water containing 60 g. of sodium bicarbonate and 8 g. sodium hydroxide. The addition took about 20-30 minutes. The reaction was run most conveniently in a large beaker and small portions of ether were added to reduce foaming. The mixture was stirred for two hours and the dark red azo dye was collected by filtration and washed with a little water. The wet filter cake was suspended in 2,000 ml. of 5% sodium hydroxide and stirred well under nitrogen for 30 minutes. While maintaining a nitrogen atmosphere, 140 g. of Na2S2O4 was added in portions over one hour. The mixture was then boiled for one hour, cooled and filtered under nitrogen. The filtrate was acidified, under nitrogen, to a pH of 5. The yellow-grey precipitate was collected by filtration under nitrogen and dried in a vacuum desiccator to give 20 g. (38% yield) crude benzotriazole.

reactant | 4-chloro-2-nitroaniline | ClC1=CC(=C(N)C=C1)[N+](=O)[O-] | C6H5ClN2O2
reactant | hydrochloric acid | Cl | ClH
reactant | sodium nitrite | 0.26 mole | N(=O)[O-].[Na+]
reactant | p-acetamidophenol | 0.2 mole | C(C)(=O)NC1=CC=C(C=C1)O | C8H9NO2
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
reactant | sodium hydroxide | [OH-].[Na+]
solvent | ether | CCOCC | C4H10O
solvent | water | 60 g | O | H2O
product | benzotriazole | 38% yield | N1N=NC2=C1C=CC=C2 | C6H5N3
